US09145392B2
Step 2: tert-butyl 4-((2-(4-fluoro-3-(trifluoromethyl)phenyl)-2-oxoethyl)carbamoyl)piperidine-1-carboxylate
To a solution of piperidine-1,4-dicarboxylic acid mono-tert-butyl ester (9611.92 mg; 41.92 mmol; 1.08 eq.) in THF 100 ml, added 4-methyl-morpholine (14.51 ml; 131.98 mmol; 3.40 eq.), The reaction mixture was cooled to −10° C., 3-methyl-butyryl chloride (5.03 ml; 38.82 mmol; 1.00 eq.) was add dropwise and maintaining the temperature below −5° C. after stirring for 30 mins at from −5° C. to 10° C., 2-(4-Fluoro-3-trifluoromethyl-phenyl)-2-oxo-ethyl-ammonium chloride (10.00 g; 38.82 mmol; 1.00 eq.) was added at −5° C. and stirred the mixture for 20 mins and then RT for 1 h. Added brine, extracted with EA, washed with brine, dried and concentrated. The crude oil was treated with ether. The white solid was collected as the title compound (12 g, yield 71.5%).

reactant | piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | 41.92 mmol, 9611.92 mg, 1.08 eq. | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | 4-methyl-morpholine | 131.98 mmol, 14.51 ml, 3.40 eq. | CN1CCOCC1 | C5H11NO
reactant | 3-methyl-butyryl chloride | 38.82 mmol, 5.03 ml, 1.00 eq. | CC(CC(=O)Cl)C | C5H9ClO
reactant | 2-(4-Fluoro-3-trifluoromethyl-phenyl)-2-oxo-ethyl-ammonium chloride | 38.82 mmol, 10.00 g, 1.00 eq. | [Cl-].FC1=C(C=C(C=C1)C(C[NH3+])=O)C(F)(F)F
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-((2-(4-fluoro-3-(trifluoromethyl)phenyl)-2-oxoethyl)carbamoyl)piperidine-1-carboxylate | 12 g, yield 71.5% | FC1=C(C=C(C=C1)C(CNC(=O)C1CCN(CC1)C(=O)OC(C)(C)C)=O)C(F)(F)F | C20H24F4N2O4
